US06624174B2
2-Chloro-N-(3-trifluoromethylphenyl)-3-pyridinecarboxamide
A solution of 3-aminobenzotrifluoride (Ruka, Buchs, Switzerland; 2.5 mL, 2.90 g, 18 mmol) in ethyl acetate (40 mL) is added to a stirred aqueous solution of sodium hydroxide (40 mL of 1 M, at room temperature. This stirred solution is then treated dropwise over 30 minutes with a solution of 2-chloronicotinoyl chloride (Lancaster Synthesis, Lancashire, England; 3.52 g, 20 mmol) in dry ethyl acetate (25 mL). The resulting mixture is then stirred for 2 h at ambient temperature. The mixture is then extracted with ethyl acetate (3×100 mL) and the combined extracts are sequentially washed with water (2×100 mL), hydrochloric acid (2×100 mL of 2M), water (2×100 mL), saturated aqueous sodium hydrogen carbonate solution (2×100 mL) and saturated aqueous sodium chloride (1×100 mL), dried (Na2SO4), filtered and the solvent is evaporated off under reduced pressure to yield the crude product which is purified by recrystallisation from ethyl acetate-hexane to give the title compound as a colourless crystalline solid, m.p. 117-118° C.

reactant | 3-aminobenzotrifluoride | 18 mmol, 2.5 mL, 2.90 g | NC=1C=C(C=CC1)C(F)(F)F | C7H6F3N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-chloronicotinoyl chloride | 20 mmol, 3.52 g | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-N-(3-trifluoromethylphenyl)-3-pyridinecarboxamide | ClC1=NC=CC=C1C(=O)NC1=CC(=CC=C1)C(F)(F)F | C13H8ClF3N2O
